US07671201B2
Step C Synthesis of 3,5-dichloro-4-({1-[5-(trifluoromethyl)(2-pyridyl)](4-piperidyl)}methoxy)phenol as an Intermediate
This compound was prepared in a manner analogous to that of Example 1 Step B, by the treatment of 2.5 grams (0.0049 mole) of 1,3-dichloro-5-(phenylmethoxy)-2-({1-[5-(trifluoromethyl)(2-pyridyl)](4-piperidyl)}methoxy)benzene with hydrogen gas in the presence of 0.3 gram (catalyst) of 10% palladium on carbon in 25 mL of ethyl acetate and 50 mL of ethanol using a Parr hydrogenation apparatus. The yield of the subject compound was 2.0 grams. The NMR spectrum was consistent with the proposed structure.

reactant | 1,3-dichloro-5-(phenylmethoxy)-2-({1-[5-(trifluoromethyl)(2-pyridyl)](4-piperidyl)}methoxy)benzene | 0.0049 mole, 2.5 grams | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)OCC1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C25H23Cl2F3N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.3 gram | [Pd] | Pd
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3,5-dichloro-4-({1-[5-(trifluoromethyl)(2-pyridyl)](4-piperidyl)}methoxy)phenol | ClC=1C=C(C=C(C1OCC1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F)Cl)O | C18H17Cl2F3N2O2
